US06242443B1
7-Chloro-3-(1,4-dimethylpentyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (300 mg; 1.19 mmol) and 1,4-dimethylpentylamine (1.0 g; 8.68 mmol) with the use of same procedure as in example 21 210 mg (53.5%) of the title compound was prepared; m.p. >220° C.; 1H-NMR (DMSO-d6) ppm; 10.4 (s, 1H, NH), 7.7 (d, 1H, H-8), 7.6 (dd, 1H, H-5), 7.25 (d, 1H, H-7), 7.1 (br, 1H, NH), 3.88 (q, 1H, CH2), 1.55 (m, 3H), 1.21 (m, 2H), 1.1 (d, 3H, CH3), 0.9 (d, 6H, 2×CH3); MS:EI/70eV: 330 (M+), 258, 231, 190, 126, 69, 55, 44. Analysis: C10H12ClN3O2S requires C, 50.98; H, 6.11; N, 12.74; (found C, 51.14; H, 6.43; N, 12.64)

reactant | 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 1.19 mmol, 300 mg | ClC1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H4Cl2N2O2S
reactant | 1,4-dimethylpentylamine | 8.68 mmol, 1.0 g | CC(CCC(C)C)N | C7H17N
product | 7-Chloro-3-(1,4-dimethylpentyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)NC(CCC(C)C)C)C=C1 | C14H20ClN3O2S
